US08557832B2
rac-5-({3-[trans-2-hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carbonitrile
To a solution of rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one (0.050 g, 0.12 mmol) and zinc cyanide (0.042 g, 0.36 mmol) in 2 mL of DMF under an atmosphere of nitrogen was added bis(tri-tert-butylphosphine)palladium(0) (10 mol %). The mixture was irradiated in a microwave reactor at 160° C. for 1 h, cooled to rt, filtered, and purified via preparative reverse phase HPLC to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 411.0 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 9.04-9.02 (m, 1H), 8.70 (s, 1H), 8.46 (s, 1H), 8.06 (s, 1H), 7.84-7.80 (m, 1H), 7.76-7.64 (m, 2H), 7.57-7.52 (m, 2H), 4.67 (br s, 1H), 4.55 (s, 2H), 4.02 (br s, 1H), 2.30-2.22 (m, 1H), 2.10-2.03 (m, 1H), 2.00-1.83 (m, 3H), 1.59-1.21 (m, 3H).

reactant | rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | 0.12 mmol, 0.050 g | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@H]2[C@@H](CCCC2)O)=O | C24H22ClN3O2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.36 mmol, 0.042 g | [C-]#N.[Zn+2].[C-]#N
catalyst | bis(tri-tert-butylphosphine)palladium(0) | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | rac-5-({3-[trans-2-hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carbonitrile | O[C@H]1[C@@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=CC(=NC1)C#N)C=CC=C3 | C25H22N4O2
